US07411039B2
Building Block 1 Eicosanedioic Acid Mono-Tert-Butyl Ester:
To eicosanedioic acid (3 g, 8.76 mmol) was added toluene (25 mL) and N,N dimethylformamide di-tert-butylacetal (2.1 mL, 8.76 mmol). The mixture is heated to 95° C. for 30 minutes, the mixtures is filtered and evaporated to an oil, which is redisolved in dichloromethane and washed with water. The organic phase is dried and evaporated to give 722 mg (21%) of the title compound, which was subsequently used without any further purification.

reactant | eicosanedioic acid | 8.76 mmol, 3 g | C(CCCCCCCCCCCCCCCCCCC(=O)O)(=O)O | C20H38O4
reactant | N,N dimethylformamide di-tert-butylacetal | 8.76 mmol, 2.1 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | Eicosanedioic Acid Mono-Tert-Butyl Ester | 722 mg, 21% | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCCCC(=O)O)=O | C24H46O4
